* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* CDL Netlist:                                              *
*                                                           *
* Cell Name  : OR3_4x                                       *
* Netlisted  : Fri Apr 10 15:20:20 2026                     *
* Pegasus Version: 23.14-s006 Thu Jan 25 18:41:38 PST 2024  *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
*.LDD
*.DEVTMPLT 0 MN(N) ngate tndiff(D) poly(G) tndiff(S) psub(B)
*.DEVTMPLT 1 MP(P) pgate tpdiff(D) poly(G) tpdiff(S) nxwell(B)

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: OR3_4x                                          *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt OR3_4x A B C F vdd! vss!
** N=9 EP=6 FDC=24
M0 2 A vss! vss! N L=1.8e-07 W=2.5e-06 $X=1540 $Y=1110 $dt=0
M1 vss! A 2 vss! N L=1.8e-07 W=2.5e-06 $X=2260 $Y=1110 $dt=0
M2 2 B vss! vss! N L=1.8e-07 W=2.5e-06 $X=5620 $Y=1110 $dt=0
M3 vss! B 2 vss! N L=1.8e-07 W=2.5e-06 $X=6340 $Y=1110 $dt=0
M4 2 C vss! vss! N L=1.8e-07 W=2.5e-06 $X=9730 $Y=1110 $dt=0
M5 vss! C 2 vss! N L=1.8e-07 W=2.5e-06 $X=10450 $Y=1110 $dt=0
M6 F 2 vss! vss! N L=1.8e-07 W=4e-06 $X=13590 $Y=1130 $dt=0
M7 vss! 2 F vss! N L=1.8e-07 W=4e-06 $X=14310 $Y=1130 $dt=0
M8 7 A vdd! vdd! P L=1.8e-07 W=3.75e-06 $X=760 $Y=8570 $dt=1
M9 vdd! A 7 vdd! P L=1.8e-07 W=3.75e-06 $X=1480 $Y=8570 $dt=1
M10 7 A vdd! vdd! P L=1.8e-07 W=3.75e-06 $X=2200 $Y=8570 $dt=1
M11 vdd! A 7 vdd! P L=1.8e-07 W=3.75e-06 $X=2920 $Y=8570 $dt=1
M12 8 B 7 vdd! P L=1.8e-07 W=3.75e-06 $X=4860 $Y=8570 $dt=1
M13 7 B 8 vdd! P L=1.8e-07 W=3.75e-06 $X=5580 $Y=8570 $dt=1
M14 8 B 7 vdd! P L=1.8e-07 W=3.75e-06 $X=6300 $Y=8570 $dt=1
M15 7 B 8 vdd! P L=1.8e-07 W=3.75e-06 $X=7020 $Y=8570 $dt=1
M16 2 C 8 vdd! P L=1.8e-07 W=3.75e-06 $X=8960 $Y=8570 $dt=1
M17 8 C 2 vdd! P L=1.8e-07 W=3.75e-06 $X=9680 $Y=8570 $dt=1
M18 2 C 8 vdd! P L=1.8e-07 W=3.75e-06 $X=10400 $Y=8570 $dt=1
M19 8 C 2 vdd! P L=1.8e-07 W=3.75e-06 $X=11120 $Y=8570 $dt=1
M20 F 2 vdd! vdd! P L=1.8e-07 W=4e-06 $X=13300 $Y=8610 $dt=1
M21 vdd! 2 F vdd! P L=1.8e-07 W=4e-06 $X=14020 $Y=8610 $dt=1
M22 F 2 vdd! vdd! P L=1.8e-07 W=4e-06 $X=14740 $Y=8610 $dt=1
M23 vdd! 2 F vdd! P L=1.8e-07 W=4e-06 $X=15460 $Y=8610 $dt=1
.ends OR3_4x
